US08461134B2
To a stirred suspension of 1-(bromomethyl)-3-nitrobenzene (40 g; 0.18 mol) and iron powder (31 g; 0.55 mol) in EtOH (1000 mL) was added concentrated HCl (33.8 g, 0.93 mol) at r.t. The mixture was stirred at 85° C. for 2 hrs, cooling to r.t. and filtered. The filtrate was evaporated and the residue was solved in EtOAc and washed with brine, dried (Na2SO4) and concentrated to give the 3-(bromomethyl)aniline (30 g, 87% yield) as a yellow solid. 1H NMR: (400 MHz, MeOD) δ 7.59-7.56 (m, 1H), 7.54 (t, 1H), 7.39 (d, 1H), 7.38-7.34 (m, 1H), 4.73 (s, 2H).

reactant | 1-(bromomethyl)-3-nitrobenzene | 0.18 mol, 40 g | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | HCl | 0.93 mol, 33.8 g | Cl | ClH
solvent | EtOH | 1000 mL | CCO | C2H6O
catalyst | iron | 0.55 mol, 31 g | [Fe] | Fe
product | 3-(bromomethyl)aniline | 30 g, 87% yield | BrCC=1C=C(N)C=CC1 | C7H8BrN
